US07323460B2
Step 2: Methyl 8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate
A solution of sodium methoxide (122 mg, 2.26 mmol) in dry methanol (5 mL) was added to methyl 5-[methyl(methylsulfonyl)amino]-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate (420 mg, 0.90 mmol) dissolved in a minimum amount of DMF and the resulting solution was heated to 50° C. for one hour. The reaction was cooled, glacial acetic acid (104 μL, 1.80 mmol) was added and the reaction was concentrated to dryness in vacuo. The resulting residue was triturated with ethanol and the solids were collected by vacuum filtration to give the desired product as a yellow solid.

reactant | sodium methoxide | 2.26 mmol, 122 mg | C[O-].[Na+]
reactant | methyl 5-[methyl(methylsulfonyl)amino]-8-{[(4-methylphenyl)sulfonyl]oxy}-1,6-naphthyridine-7-carboxylate | 0.90 mmol, 420 mg | CN(C1=C2C=CC=NC2=C(C(=N1)C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C | C19H19N3O7S2
reactant | acetic acid | 1.80 mmol, 104 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)C)C)C(=O)OC | C12H13N3O5S
